US06552022B1
3-[1,3]Dioxolan-2-yl-benzamide
To a solution of 3-(1,3-dioxolan-2-yl)-benzonitrile (5.86 g) in a mixture of EtOH (140 mL) and H2O (60 mL) was added sodium hydroxide (6.46 g) and the mixture was heated under reflux for 2 hours. The solvent was evaporated under reduced pressure and the aqueous layer was extracted with CH2Cl2. The organic phase was washed with water, dried over Na2SO4, filtered and evaporated to give the title compound (4.5 g) as a white solid.

reactant | 3-(1,3-dioxolan-2-yl)-benzonitrile | 5.86 g | O1C(OCC1)C=1C=C(C#N)C=CC1 | C10H9NO2
reactant | sodium hydroxide | 6.46 g | [OH-].[Na+]
solvent | EtOH | 140 mL | CCO | C2H6O
solvent | H2O | 60 mL | O | H2O
product | 3-[1,3]Dioxolan-2-yl-benzamide | 4.5 g | O1C(OCC1)C=1C=C(C(=O)N)C=CC1 | C10H11NO3
